USRE029153
Employing the procedure of Example II but replacing 4-cyanopyridine with a substantially equimolecular amount of 3-cyanopyridine and replacing 4-chlorophenacyl bromide with a substantially equimolecular amount of phenacyl bromide there is obtained N-(phenacyl) 3-cyanopyridinium bromide, a white solid soluble in water.

reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 3-cyanopyridine | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | 4-chlorophenacyl bromide | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
product | N-(phenacyl) 3-cyanopyridinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC(=CC=C1)C#N | InChI=1S/C14H11N2O.BrH/c15-9-12-5-4-8-16(10-12)11-14(17)13-6-2-1-3-7-13;/h1-8,10H,11H2;1H/q+1;/p-1
